US05374628
A. N-(4-Acetyl-3-methylphenyl)acetamide
The reaction was run in a 500 mL 3 neck round bottom (RB) fitted with a mechanical stirrer and reflux condenser. To 45 g (301.6 mmol) of 3-methylacetanilide in 240 mL of carbon disulfide under argon at RT was added 38.6 mL (542.8 mmol) of acetyl chloride with stirring. To the solution was then added 145 g (1.09 mol) of aluminum chloride in small portions over a 1 h period. After addition was complete the mixture was refluxed for 1 h and then allowed to cool and stand for 1 h. The supernatant carbon disulfide layer was decanted off and the very dark viscous lower layer was poured into a mixture of cracked ice and hydrochloric acid. The precipitate was collected and washed with 1 L of water. The solid was dried under high vacuum for 30 h at RT no provide 52.17 g (90%) of title amide in the form of a light tan solid which is used as the crude material in the following reaction.

reactant | 3-methylacetanilide | 301.6 mmol, 45 g | CC1=CC(=CC=C1)NC(=O)C | C9H11NO
reactant | acetyl chloride | 542.8 mmol, 38.6 mL | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 1.09 mol, 145 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 240 mL | C(=S)=S | CS2
product | N-(4-Acetyl-3-methylphenyl)acetamide | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)C | C11H13NO2
